US09145391B2
Tert-butyllithium (1.6 M in hexane, 3.3 mL, 5.28 mmol) was added dropwise over a period of 1 minute to a solution of 2-bromo-5-chloropyridine (0.8 g, 4.16 mmol) in dichloromethane (21 mL) at −78° C. The mixture was stirred for 90 minutes at −78° C., then a solution of trans-butyl 4-acetylcyclohexanecarboxylate (1.035 g, 4.57 mmol) in dichloromethane (1 mL) was added. The reaction was then allowed to warm to 23° C. over a period of 16 hours and subsequently diluted with saturated aqueous ammonium chloride solution. The resulting slurry was extracted with dichloromethane (3×70 mL), and the combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by silica gel column chromatography (EtOAc/hexanes) afforded racemic trans-butyl 4-(1-(5-chloropyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate as a brown oil. MS ESI calcd. for C18H27ClNO3 [M+H]+ 340. found 340. 1H NMR (500 MHz, CDCl3) δ 8.47 (s, 1H), 7.68 (d, J=8.4 Hz, 1H), 7.26 (d, J=8.4 Hz, 1H), 4.68 (s, 1H), 4.03 (t, J=6.6 Hz, 2H), 2.22-1.85 (m, 4H), 1.66-1.53 (m, 4H), 1.48 (s, 3H), 1.42-1.05 (m, 6H), 0.91 (t, J=7.5 Hz, 3H).

reactant | Tert-butyllithium | 5.28 mmol, 1.6 M, 3.3 mL | C(C)(C)(C)[Li]
reactant | 2-bromo-5-chloropyridine | 4.16 mmol, 0.8 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | trans-butyl 4-acetylcyclohexanecarboxylate | 4.57 mmol, 1.035 g | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C13H22O3
solvent | dichloromethane | 21 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
product | racemic trans-butyl 4-(1-(5-chloropyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate | ClC=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C18H26ClNO3
